US06984496B2
Gabapentin Inhibits PMA Mediated ERK Phosphorylation in Differentiated IMR-32 Cells
IMR-32 cells were grown in MEM media (Gibco BRL, 11095-080), supplemented with 10% fetal bovine serum (Gibco BRL, 26140-087), 1% antibiotic-antimycotic (Gibco BRL, 15240-096), and 1% L-glutamine (Gibco BRL, 25030-032). Cells, grown to confluency, were differentiated for a period of 7 to 10 days, or longer, by adding 1 mM dibutyryl cAMP (Sigma D-0627) and 2.5 μM 5-bromo-2-deoxyuridine (Sigma B-9285) to the media. The differentiation media was fed continuously to cells until the cells were used in an experiment. Cells were divided into groups and preincubated for 30 minutes either in the presence or absence of indicated concentration of gabapentin then subsequently challenged with 50 nM PMA for 5 minutes. Cells were washed with cold PBS buffer containing 1 mM sodium orthovanadate and 1 mM phenylmethylsulfonyl fluoride, then solubilized in lysis buffer (10 mM Hepes, pH 7.4, 70 mM NaCl, 50 mM b-glycerol phosphate, 1% Triton X-100, 1 mM sodium orthovanadate, 1 mM phenylmethylsulfonyl fluoride, and 1× protease inhibitor cocktail). Proteins in cell extracts were separated by SDS-PAGE and transferred to nitrocellulose membrane. The nitrocellulose membrane was blocked overnight at 4° C. with 4% BSA in Tris-buffered saline containing 0.2% (v/v) Tween 20 (TBST). The membrane was then incubated for 1 hour at RT with antiphospho MAP kinase antibody (1:1000 dilution) in 1% BSA and TBST, then washed with TBST followed by incubation with antirabbit IgG HRP antibody. After a final wash with TBST, the membrane was visualized using enhanced chemiluminescence reagents.

reactant | L-glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | dibutyryl cAMP | 1 mM | CCCC(=O)NC1=NC=NC2=C1N=CN2[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)OC(=O)CCC | C18H24N5O8P
reactant | 5-bromo-2-deoxyuridine | 2.5 μM | C1[C@@H]([C@H](O[C@H]1N2C=C(C(=O)NC2=O)Br)CO)O | C9H11BrN2O5
product | Gabapentin | C1CCC(CC1)(CC(=O)O)CN | C9H17NO2
